US09216173B2
To a solution of 5-bromo-3-[(4,6-dimethylpyridin-2-yl)amino]pyridine-2-carbonitrile (PrepEx 1.4) (2.6 g, 8.6 mmol) in DMSO (60 mL) was added sodium hydroxide (6.0 M in water, 1.4 mL, 8.6 mmol). The reaction mixture was cooled in an ice bath, and hydrogen peroxide (30% w/w solution in water, 2.0 mL, 20 mmol) was added. After 2 hours, the reaction mixture was diluted with water (100 mL) and stirred. After 10 min, the reaction mixture was filtered, and the collected solids were washed with water (2×50 mL) and dried under reduced pressure to afford 5-bromo-3-[(4,6-dimethylpyridin-2-yl)amino]pyridine-2-carboxamide. 1H NMR (600 MHz, CD3OD) δ 9.63 (d, J=2.4 Hz, 1H), 8.07 (d, J=2.4 Hz, 1H), 6.63 (s, 1H), 6.48 (s, 1H), 2.40 (s, 3H), 2.24 (s, 3H).

reactant | 5-bromo-3-[(4,6-dimethylpyridin-2-yl)amino]pyridine-2-carbonitrile | 8.6 mmol, 2.6 g | BrC=1C=C(C(=NC1)C#N)NC1=NC(=CC(=C1)C)C | C13H11BrN4
reactant | sodium hydroxide | 8.6 mmol, 6.0 M, 1.4 mL | [OH-].[Na+]
reactant | hydrogen peroxide | 20 mmol, 2.0 mL | OO | H2O2
solvent | DMSO | 60 mL | CS(=O)C | C2H6OS
solvent | water | 100 mL | O | H2O
product | 5-bromo-3-[(4,6-dimethylpyridin-2-yl)amino]pyridine-2-carboxamide | BrC=1C=C(C(=NC1)C(=O)N)NC1=NC(=CC(=C1)C)C | C13H13BrN4O
